US05290933
5-Acetamido-2-(2-propoxyphenyl)pyrimidin-4(3H)-one
A solution of 5-amino-2-(2-propoxyphenyl)pyrimidin-4(3H)-one (0.90 g) and 10 drops of acetic anhydride in acetic acid (50 ml) was heated on a steam bath for 4 hours. A further 10 drops of acetic anhydride was added and heating was continued for one hour. Acetic acid was removed under reduced pressure and water was added to the residue which afforded a light brown solid, 0.87 g. This was recrystallised from isopropylacetate to give the title compound, 0.32 g, m.p. 195°-197° C.

reactant | 5-amino-2-(2-propoxyphenyl)pyrimidin-4(3H)-one | 0.90 g | NC=1C(NC(=NC1)C1=C(C=CC=C1)OCCC)=O | C13H15N3O2
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | acetic anhydride | 10 drops | C(C)(=O)OC(C)=O | C4H6O3
catalyst | acetic anhydride | 10 drops | C(C)(=O)OC(C)=O | C4H6O3
product | 5-Acetamido-2-(2-propoxyphenyl)pyrimidin-4(3H)-one | C(C)(=O)NC=1C(NC(=NC1)C1=C(C=CC=C1)OCCC)=O | C15H17N3O3
